US06184244B2
N-[(5-fluoro-1-methyl-indole-2-carbonyl)valinyl]-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid, tert-butyl ester
To a solution of N-[(5-fluoro-1-methyl-indole-2-carbonyl)valinyl]-3-amino-4-hydroxy-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid, tert-butyl ester (112.6 mg, 0.18 mmol) in CH2Cl2 (5.0 ml) was added Dess-Martin periodinane (95 mg, 0.22 mmol) and the solution stirred for 10 min. at room temperature. The reaction was quenched with Na2S2O4, diluted with EtOAc, washed with NaHCO3, and brine, dried over Na2SO4, filtered and concentrated in vacito. The crude product was purified by chromatography (1:1 EtOAc/hexane) to give the titled product as a white solid (which was directly taken to the next step in Example 115).

reactant | N-[(5-fluoro-1-methyl-indole-2-carbonyl)valinyl]-3-amino-4-hydroxy-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid, tert-butyl ester | 0.18 mmol, 112.6 mg | FC=1C=C2C=C(N(C2=CC1)C)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(COC1=C(C(=CC(=C1F)F)F)F)O | C30H34F5N3O6
reactant | Dess-Martin periodinane | 0.22 mmol, 95 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | CH2Cl2 | 5.0 ml | C(Cl)Cl | CH2Cl2
product | N-[(5-fluoro-1-methyl-indole-2-carbonyl)valinyl]-3-amino-4-oxo-5-(2,3,5,6-tetrafluorophenyloxy)-pentanoic acid, tert-butyl ester | FC=1C=C2C=C(N(C2=CC1)C)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(COC1=C(C(=CC(=C1F)F)F)F)=O | C30H32F5N3O6
